US04980360
A stirred mixture of 8-amino-6-methoxy-4-methyl-5-(9-phenylnonoxy) quinoline (0.85 g, 0.002 mol) and 4-bromo-1-phthalimidopentane (BPP) (2.4 g, 0.008 mol) was heated at 125°-135° C. while Et3N (1 ml) was added in small portions during 0.5 hr. After 2 h, second portions of BPP (0.6 g) and Et3N (2 drops) were introduced. Identical additions of BPP (0.6 g) and Et3N (2 drops were made three more times at 1 h intervals. The mixture was allowed to cool, extracted with Et2O and the extract was treated with Darco and evaporated to dryness. The residue was redissolved in Et2O (100 ml) and treated with an excess of ethereal hydrogen chloride. The resulting dark red precipitate was separated by decantation, basified with ethereal Et3N and the solvent was evaporated. The residual brown oil was dissolved in CHCl3, placed on a silica gel column (100 g) and eluted with CHCl3. Concentration of the eluate provided 0.9 g (72%) of 6-methoxy-4-methyl-8-(1-methyl-4-phthalimidobutylamino)-5-(9-phenylnonoxy) quinoline as a pale brown oil which was used without further purification.

reactant | 8-amino-6-methoxy-4-methyl-5-(9-phenylnonoxy) quinoline | 0.002 mol, 0.85 g | NC=1C=C(C(=C2C(=CC=NC12)C)OCCCCCCCCCC1=CC=CC=C1)OC | C26H34N2O2
reactant | 4-bromo-1-phthalimidopentane | 0.008 mol, 2.4 g | BrC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C13H14BrNO2
reactant | BPP | 0.6 g | BrC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C13H14BrNO2
reactant | BPP | 0.6 g | BrC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C13H14BrNO2
catalyst | Et3N | 2 drops | CCN(CC)CC | C6H15N
solvent | Et3N | CCN(CC)CC | C6H15N
solvent | Et3N | 1 ml | CCN(CC)CC | C6H15N
product | 6-methoxy-4-methyl-8-(1-methyl-4-phthalimidobutylamino)-5-(9-phenylnonoxy) quinoline | 0.9 g, 72% | COC=1C(=C2C(=CC=NC2=C(C1)NC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)C)C)OCCCCCCCCCC2=CC=CC=C2 | C39H47N3O4
